US09399640B2
Step 1. 5-Bromo-4-(cyclobutylmethoxy)-1-methyl-3-[2-(4-methylpiperazin-1-yl)ethyl]-1,3-dihydro-2H-benzimidazol-2-one
A solution of 5-bromo-4-(cyclobutylmethoxy)-1-methyl-3-(2-piperazin-1-ylethyl)-1,3-dihydro-2H-benzimidazol-2-one (40.0 mg, 0.0945 mmol) in tetrahydrofuran (2.0 mL) was treated with a 1.23M solution of formaldehyde in water (384 μL, 0.474 mmol). The resultant reaction mixture was stirred at RT for 30 min, followed by the addition of sodium cyanoborohydride (17.8 mg, 0.284 mmol). After stirring at RT for 2 h, the reaction mixture was quenched with acetic acid (0.5 mL) and concentrated in vacuo to give the crude product. Purification via preparative LCMS (XBridge C18 column, eluting with a gradient of acetonitrile/water 0.1% ammonium hydroxide, at flow rate of 60 mL/min) gave the desired product (38 mg, 92%). LCMS calculated for C20H30BrN4O2 (M+H)+: m/z=437.2, 439.2. found: 437.1, 439.1.

reactant | 5-bromo-4-(cyclobutylmethoxy)-1-methyl-3-(2-piperazin-1-ylethyl)-1,3-dihydro-2H-benzimidazol-2-one | 0.0945 mmol, 40.0 mg | BrC1=C(C2=C(N(C(N2CCN2CCNCC2)=O)C)C=C1)OCC1CCC1 | C19H27BrN4O2
reactant | formaldehyde | C=O | CH2O
reactant | water | 0.474 mmol, 384 μL | O | H2O
reactant | sodium cyanoborohydride | 0.284 mmol, 17.8 mg | C(#N)[BH3-].[Na+]
solvent | tetrahydrofuran | 2.0 mL | O1CCCC1 | C4H8O
product | 5-Bromo-4-(cyclobutylmethoxy)-1-methyl-3-[2-(4-methylpiperazin-1-yl)ethyl]-1,3-dihydro-2H-benzimidazol-2-one | 38 mg, 92% | BrC1=C(C2=C(N(C(N2CCN2CCN(CC2)C)=O)C)C=C1)OCC1CCC1 | C20H29BrN4O2
